US08030311B2
Step 51.2: 1-isopropyl-4-(4-nitro-benzyl)-piperazine
A mixture of 4-nitrobenylchloride (4.1 g, 23.90 mmol), N-isopropylpiperazine (3.6 g, 28.67 mmol, 1.2 eq.), potassium carbonate (6.5 g, 47.79, 2 equiv), and acetone (82 mL) is stirred for 16 h at reflux. The reaction mixture is allowed to cool to rt, filtered and concentrated. Purification of the residue by silica gel column chromatography (CH2Cl2/MeOH+1% NH3aq, 9:1) affords 6.2 g of the title compound as a yellow solid: to afford the title compound as a yellow solid: ESI-MS: 264.1 [M+H]+; tR=1.73 min (System 1); TLC: Rf=0.34 (CH2Cl2/MeOH+1% NH3aq, 9:1).

reactant | 4-nitrobenylchloride | 23.90 mmol, 4.1 g | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | N-isopropylpiperazine | 28.67 mmol, 3.6 g, 1.2 eq. | C(C)(C)N1CCNCC1 | C7H16N2
reactant | potassium carbonate | 6.5 g, 2 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 82 mL | CC(=O)C | C3H6O
product | 1-isopropyl-4-(4-nitro-benzyl)-piperazine | 6.2 g | C(C)(C)N1CCN(CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C14H21N3O2
